US07169773B2
tert-butyl 3-({2,4-dioxo-1-[2-oxo-2-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)ethyl]-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-3-yl}methyl)-1H-indazole-1-carboxylate
To a stirring solution of 1-[2-oxo-2-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)ethyl]-5-phenyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione (1.0 g, 2.28 mM) in 15 mL DMF at 0° C. was added 1.1 equiv. of 0.5 M solution of KN(TMS)2 in toluene. The resulting solution was stirred 10–30 min, then a solution of tert-butyl 3-(bromomethyl)-1H-indazole-1-carboxylate (0.78 g, 2.5 mM) in 3 mL DMF was added. The resulting solution was stirred 2 h at RT and then quenched with 5 mL of H2O. The reaction mixture was then poured into 50 mL of EtOAc and extracted with H2O (2×50 mL). The organic layer was separated, dried (MgSO4), and the solvents removed in vacuo. The resultant material was purified by silica gel flash column chromatography using hexanes/EtOAc 1/1 providing 1.4 g of white solid.

reactant | 1-[2-oxo-2-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)ethyl]-5-phenyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | 2.28 mM, 1.0 g | O=C(CN1C(CC(N(C2=C1C=CC=C2)C2=CC=CC=C2)=O)=O)N2CCCCC1=C2C=CC=C1 | C27H25N3O3
reactant | tert-butyl 3-(bromomethyl)-1H-indazole-1-carboxylate | 2.5 mM, 0.78 g | BrCC1=NN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C13H15BrN2O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-({2,4-dioxo-1-[2-oxo-2-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)ethyl]-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-3-yl}methyl)-1H-indazole-1-carboxylate | O=C1C(C(N(C2=C(N1CC(N1CCCCC3=C1C=CC=C3)=O)C=CC=C2)C2=CC=CC=C2)=O)CC2=NN(C3=CC=CC=C23)C(=O)OC(C)(C)C | C40H39N5O5
